US06403584B1
To a solution of 7.0 g (40.6 mmol) 2-hydroxy-4-chlorobenzoic acid in 150 ml of dry DMF was added 16.8 g (122 mmol) of K2CO3 followed by the dropwise addition of 15.2 g (89.2 mmol) of benzyl bromide. The reaction mixture was warmed to 50° C. and stirred overnight. After 16h, the reaction mixture was diluted with Et2O and H2O and the layers were separated. The aqueous layer was extracted with Et2O (2×) and the combined organic layers were successively washed with 1N HCl (3×100 ml), saturated NaHCO3 solution (2×50 ml) and brine (1×50 ml). The solution was dried over anhydrous MgSO4 and concentrated to give 2-benzyloxy-4-chlorobenzoic acid, benzyl ester as a pale yellow solid which was used without further purification.

reactant | 2-hydroxy-4-chlorobenzoic acid | 40.6 mmol, 7.0 g | OC1=C(C(=O)O)C=CC(=C1)Cl | C7H5ClO3
reactant | K2CO3 | 122 mmol, 16.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 89.2 mmol, 15.2 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
solvent | Et2O | CCOCC | C4H10O
solvent | H2O | O | H2O
product | 2-benzyloxy-4-chlorobenzoic acid, benzyl ester | C(C1=CC=CC=C1)OC1=C(C(=O)OCC2=CC=CC=C2)C=CC(=C1)Cl | C21H17ClO3
